* plain SPICE deck — no `simulator lang=` directive.
* Unchanged-behavior guard: must format byte-identically to today.
.subckt inv a y vdd vss
Mn y a vss vss nch w=1u
Mp y a vdd vdd pch w=2u
.ends
Xinv in out vdd gnd inv
Cload out gnd 10f
Vdd vdd gnd 1.2
Vin in gnd pulse(0 1.2 0 100p 100p 1n 2n)